US07435735B2
Step 1: 2-(3-Chloro-4-fluorobenzyl)-10-methoxy-4-(N-tert-butoxylcarbonylamino)-8-methyl-7,8-dihydropyrido-[3′,4′:4,5]pyrrolo[1,2-a]pyrazine-1,9(2H,6H)-dione
A solution of 2-(3-chloro-4-fluorobenzyl)-10-methoxy-8-methyl-1,9-dioxo-1,2,6,7,8,9-hexahydropyrido[3′,4′:4,5]pyrrolo[1,2-a]-pyrazine-4-carboxylic acid (0.74 g, 1.70 mmol), diisopropylethylamine (0.28 g, 2.13 mmol), and diphenylphosphoryl azide (0.57 g, 2.13 mmol) in mixture of 1,2-dichlorobenzene (10 mL) and anhydrous tert-butyl alcohol (10 mL) was heated in a sealed tube in an oil bath 120° C. for one hour. The reaction mixture was concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluting with a methanol in ethyl acetate gradient. Collection and concentration of appropriate fractions provided the titled compound.

reactant | 2-(3-chloro-4-fluorobenzyl)-10-methoxy-8-methyl-1,9-dioxo-1,2,6,7,8,9-hexahydropyrido[3′,4′:4,5]pyrrolo[1,2-a]-pyrazine-4-carboxylic acid | 1.70 mmol, 0.74 g | ClC=1C=C(CN2C(C=3C(=C4N(CCN(C4=O)C)C3C(=C2)C(=O)O)OC)=O)C=CC1F | C20H17ClFN3O5
reactant | diisopropylethylamine | 2.13 mmol, 0.28 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diphenylphosphoryl azide | 2.13 mmol, 0.57 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 1,2-dichlorobenzene | 10 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
reactant | tert-butyl alcohol | 10 mL | C(C)(C)(C)O | C4H10O
product | 2-(3-Chloro-4-fluorobenzyl)-10-methoxy-4-(N-tert-butoxylcarbonylamino)-8-methyl-7,8-dihydropyrido-[3′,4′:4,5]pyrrolo[1,2-a]pyrazine-1,9(2H,6H)-dione | ClC=1C=C(CN2C(C=3C(=C4N(CCN(C4=O)C)C3C(=C2)NC(=O)OC(C)(C)C)OC)=O)C=CC1F | C24H26ClFN4O5
